US08232284B2
Preparation of 6-{[5-(2-azetidin-1-ylethoxy)pyridin-2-yl]oxy}-N-(5-methylpyrazin-2-yl)quinazoline-4-amine
Using 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol, 5-(2,2-diethoxyethoxy)-2-fluoropyridine and azetidine, and in the same manner as in Example 31 or according to a method similar to it or according to a combination thereof with an ordinary method, the entitled compound (22 mg) was obtained as a pale yellow solid.

reactant | 4-[(5-methylpyrazin-2-yl)amino]quinazolin-6-ol | CC=1N=CC(=NC1)NC1=NC=NC2=CC=C(C=C12)O | C13H11N5O
reactant | 5-(2,2-diethoxyethoxy)-2-fluoropyridine | C(C)OC(COC=1C=CC(=NC1)F)OCC | C11H16FNO3
reactant | azetidine | N1CCC1 | C3H7N
product | 6-{[5-(2-azetidin-1-ylethoxy)pyridin-2-yl]oxy}-N-(5-methylpyrazin-2-yl)quinazoline-4-amine | 22 mg | N1(CCC1)CCOC=1C=CC(=NC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NC=C(N=C1)C | C23H23N7O2
